US07906652B2
Step 5: 3-[(S)-(4-chlorophenyl)(3-oxoazetidin-1-yl)methyl]benzonitrile
To a solution of 21.1 mL (0.24 mol) of oxalyl chloride in 500 mL CH2Cl2, a solution of 34.2 mL (0.48 mol) of DMSO in 50 mL CH2Cl2 was added slowly at −78° C. After the reaction mixture was stirred for 30 min., a solution of 36.02 g (0.12 mol) of 3-[(S)-(4-chlorophenyl)(3-hydroxyazetidin-1-yl)methyl]benzonitrile in 50 mL of CH2Cl2 was added and stirred for another 45 min. Then 82.8 mL (0.60 mol) of triethylamine was added and the mixture was stirred for 30 min. at −78° C. The mixture was warmed to rt and stirring continued for 30 min. Then the mixture was poured into 1000 mL of ether and 200 mL of aq NaHCO3. The water layer was extracted with two 200 mL portions of ether. The combined organic layers were dried over Na2SO4 and concentrated. The residue was purified by silica gel chromatography with hexanes/ethyl acetate to afford the title compound as a white solid; 1H-NMR(CDCl3) δ 4.03-4.07(m, 4H), 4.65(s, 1H), 7.33-7.43 (m, 4H), 7.45 (t, 1H, J=7.8 Hz), 7.56 (d, 1H, J=7.5 Hz), 7.72 (d, 1H, J=7.5 Hz), 7.81 (s, 1H); Mass Spectrum: m/e=297, (M+1, 35Cl), 299 (M+1, 37Cl).

reactant | oxalyl chloride | 0.24 mol, 21.1 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMSO | 0.48 mol, 34.2 mL | CS(=O)C | C2H6OS
reactant | 3-[(S)-(4-chlorophenyl)(3-hydroxyazetidin-1-yl)methyl]benzonitrile | 0.12 mol, 36.02 g | ClC1=CC=C(C=C1)[C@@H](C=1C=C(C#N)C=CC1)N1CC(C1)O | C17H15ClN2O
reactant | triethylamine | 0.60 mol, 82.8 mL | C(C)N(CC)CC | C6H15N
reactant | NaHCO3 | 200 mL | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 500 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
solvent | ether | 1000 mL | CCOCC | C4H10O
product | 3-[(S)-(4-chlorophenyl)(3-oxoazetidin-1-yl)methyl]benzonitrile | ClC1=CC=C(C=C1)[C@@H](C=1C=C(C#N)C=CC1)N1CC(C1)=O | C17H13ClN2O
